US06136848
Synthesis of methyl 3-isopropoxybenzoate
Methyl 3-hydroxybenzoate (1 eq.) and 2-bromopropane (2 eq.) were dissolved in DMF. Subsequent to addition of potassium carbonate (2 eq.), the resulting mixture was stirred at 100° C. for 24 hours. The mixture was charged into water. Subsequent to extraction with ethyl acetate, the organic layer was washed with 1 N aqueous solution of sodium hydroxide and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure, whereby the title compound was obtained (yield: 49%).

reactant | Methyl 3-hydroxybenzoate | 1 eq. | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 2-bromopropane | 2 eq. | BrC(C)C | C3H7Br
reactant | potassium carbonate | 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 3-isopropoxybenzoate | yield: 49% | C(C)(C)OC=1C=C(C(=O)OC)C=CC1 | C11H14O3
